US04497813
N-[2-(2,3-epoxypropoxy)benzyl]-N'-(2-hydroxyethyl)urea
A mixture of 29.2 g of N-(2-hydroxyethyl)-N'-(2-hydroxybenzyl)urea, 440 ml of epichlorohydrin and 38.9 g of potassium carbonate is stirred for 6 hours at 90°. The solids are then suction-filtered whilst hot, washed with acetonitrile and the filtrate is concentrated by evaporation in vacuo. The oil remaining crystallises when left to stand and is recrystallised from 320 ml of ethyl acetate, with carbon treatment. The resulting epoxide melts at 96°-99°.

reactant | N-(2-hydroxyethyl)-N'-(2-hydroxybenzyl)urea | 29.2 g | OCCNC(=O)NCC1=C(C=CC=C1)O | C10H14N2O3
reactant | potassium carbonate | 38.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | epichlorohydrin | 440 ml | C(Cl)C1CO1 | C3H5ClO
product | N-[2-(2,3-epoxypropoxy)benzyl]-N'-(2-hydroxyethyl)urea | O1C(COC2=C(CNC(=O)NCCO)C=CC=C2)C1 | C13H18N2O4
